US20010008893A1
1-(2-Methyl-4-hydroxynaphthoxy)-3-[4-(2-hydroxyphenyl)-1-piperazinyl]propan-2-ol hydrochloride
Using 3.7 g of 4-benzyloxy-2-methylnaphthol, 1.4 g of anhydrous potassium carbonate, 5.0 g of chloromethyloxirane, 2.3 g of 1-(2-hydroxyphenyl)piperazine hydrochloride and 1.2 g of triethylamine, reaction was carried out as in Examples 1-A and 2 . The thus obtained crystals were recrystallized from ethanol-isopropyl ether to give 1.8 g of crystals, m.p. 267-269°C. (decomp.).

reactant | 4-benzyloxy-2-methylnaphthol | 3.7 g | C(C1=CC=CC=C1)OC1=CC(=C(C2=CC=CC=C12)O)C | C18H16O2
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyloxirane | 5.0 g | ClCC1OC1 | C3H5ClO
reactant | 1-(2-hydroxyphenyl)piperazine hydrochloride | 2.3 g | Cl.OC1=C(C=CC=C1)N1CCNCC1
solvent | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
product | 1-(2-Methyl-4-hydroxynaphthoxy)-3-[4-(2-hydroxyphenyl)-1-piperazinyl]propan-2-ol hydrochloride | 1.8 g | Cl.CC1=C(C2=CC=CC=C2C(=C1)O)OCC(CN1CCN(CC1)C1=C(C=CC=C1)O)O | InChI=1S/C24H28N2O4.ClH/c1-17-14-23(29)19-6-2-3-7-20(19)24(17)30-16-18(27)15-25-10-12-26(13-11-25)21-8-4-5-9-22(21)28;/h2-9,14,18,27-29H,10-13,15-16H2,1H3;1H
